US05686419
4-Cyanophenylacetaldehyde.
This compound was prepared from 4-cyanobenzaldehyde using a modification of a procedure previously used in the multi-step synthesis of 2-phenylpropanal [Allen, C. F. H.; van Allan, J. Org. Syn. Coll. Vol 3, 733-734 (1955)].

reactant | 4-cyanobenzaldehyde | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | 2-phenylpropanal | C1(=CC=CC=C1)C(C=O)C | C9H10O
product | 4-Cyanophenylacetaldehyde | C(#N)C1=CC=C(C=C1)CC=O | C9H7NO
